US07994203B2
Step 3: 3-(2,4-Dichloro-phenyl)-6-ethyl-2-methyl-pyrazolo[5,1-b]oxazole
To a pale yellow solution of 1-(2,4-dichloro-phenyl)-2-(5-ethyl-2H-pyrazol-3-yloxy)-propan-1-one (9.00 g, 28.7 mmol) in 1,2-dichloroethane (125 ml) is slowly added via syringe titanium tetrachloride (3.80 ml, 34.5 mmol) generating a dark red solution. The reaction mixture is heated at 80° C. for 3 hours and allowed to cool to RT. The reaction mixture is poured slowly into NH4Cl (200 ml) and basified (pH 8) using Na2CO3 (200 ml). EtOAc (300 ml) is added and the biphasic solution is filtered through Celite® 521 (filter material) to remove titanium salts. The solution is extracted with EtOAc (3×75 ml) and the combined organics washed with H2O (1×100 ml), and brine (100 ml), dried (Na2SO4), filtered and concentrated in vacuo to yield an amber solid. The residue is crystallized from hot EtOAc/iso-hexane (1:5, 30 ml) to yield white solid: The mother liquor is purified using a Flashmaster (SiO2 150 ml/70 g column) eluting with 3:1 iso-hexane/EtOAc to yield a yellow solid which is crystallized from hot EtOAc/iso-hexane (1:8, 30 ml) to yield the title compound as a pale yellow solid; MS: m/z 295.15 [M+H]+

reactant | 1-(2,4-dichloro-phenyl)-2-(5-ethyl-2H-pyrazol-3-yloxy)-propan-1-one | 28.7 mmol, 9.00 g | ClC1=C(C=CC(=C1)Cl)C(C(C)OC=1NN=C(C1)CC)=O | C14H14Cl2N2O2
reactant | NH4Cl | 200 ml | [NH4+].[Cl-]
reactant | Na2CO3 | 200 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc | 300 ml | CCOC(=O)C | C4H8O2
solvent | 1,2-dichloroethane | 125 ml | ClCCCl | C2H4Cl2
catalyst | titanium tetrachloride | 34.5 mmol, 3.80 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 3-(2,4-Dichloro-phenyl)-6-ethyl-2-methyl-pyrazolo[5,1-b]oxazole | ClC1=C(C=CC(=C1)Cl)C=1N2C(OC1C)=CC(=N2)CC | C14H12Cl2N2O
